US07723345B2
To 4′-bromo-2,2,2-trifluoroacetophenone (5.0 g, 19.76 mmol) in THF (50 mls) at 0° C. was added NaBH4 (1.5 g, 39.52 mmol). The mixture was warmed to room temperature and stirred for 1 hour. The reaction was complete by TLC (CH2Cl2). The mixture was quenched with H2O, rotary evaporated to remove most of the THF, and extracted 2 times with CH2Cl2. The organics were combined, washed with brine, concentrated to a small volume and filtered through a plug of silica gel. The silica was washed with CH2Cl2 to elute the product, and the resulting solution was concentrated to give 4.65 g of 1-(4-bromophenyl)-2,2,2-trifluoroethanol. Yield 92%.

reactant | 4′-bromo-2,2,2-trifluoroacetophenone | 19.76 mmol, 5.0 g | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | NaBH4 | 39.52 mmol, 1.5 g | [BH4-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mls | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-2,2,2-trifluoroethanol | 4.65 g, Yield 92% | BrC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6BrF3O
